US07138425B2
c) 2-[4-Butoxy-3-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(5-amino-2-butoxyphenyl)-5-phenylbenzoxazole (174 mg, 0.49 mmol) and 1,2,4-benzenetricarboxylic anhydride (94 mg, 0.49 mmol) the title compound was obtained (146 mg, 56%). 1H NMR (DMSO) δ 8.44(dd, 1H), 8.32(s, 1H), 8.18(d, 1H), 8.12(d, 1H), 8.05(d, 1H), 7.82(d, 1H), 7.71(m, 4H), 7.48(m, 3H), 7.39(t, 1H), 4.25(t, 2H), 1.83(m, 2H), 1.58(m, 2H), 1.00(t, 3H). MS 533 m/z (M+H)+.

reactant | 2-(5-amino-2-butoxyphenyl)-5-phenylbenzoxazole | 0.49 mmol, 174 mg | NC=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)OCCCC | C23H22N2O2
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.49 mmol, 94 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Butoxy-3-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | C(CCC)OC1=C(C=C(C=C1)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C32H24N2O6
